US04555362
reacting N-acetoacetyl-L-aspartic anhydride with L-phenylalanine methyl ester to form N-acetoacetyl-α-L-aspartyl-L-phenylalanine methyl ester.

reactant | N-acetoacetyl-L-aspartic anhydride | C(CC(=O)C)(=O)N[C@H]1CC(=O)OC1=O | C8H9NO5
reactant | L-phenylalanine methyl ester | COC([C@@H](N)CC1=CC=CC=C1)=O | C10H13NO2
product | N-acetoacetyl-α-L-aspartyl-L-phenylalanine methyl ester | COC([C@@H](NC([C@@H](NC(CC(=O)C)=O)CC(O)=O)=O)CC1=CC=CC=C1)=O | C18H22N2O7
